US07872031B2
A solution of 1-(tert-butyldiisopropylsilyl)-1H-pyrrole (1.0 g, 4.48 mmol) in THF was added N-bromosuccinimide at −78° C. The reaction mixture was slowly warmed to RT and stirred for 24 hours. The reaction mixture was concentrated to obtain dark black residue, which was suspended in CCl4 (100 mL) and stirred for 15 min and filtered. The filtrate was concentrated to obtain 1-(tert-butyldiisopropylsilyl)-3-bromo-1H-pyrrole as oily liquid (1.0 g).

reactant | 1-(tert-butyldiisopropylsilyl)-1H-pyrrole | 4.48 mmol, 1.0 g | C(C)(C)(C)[Si](N1C=CC=C1)(C(C)C)C(C)C | C14H27NSi
reactant | N-bromosuccinimide | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | THF | C1CCOC1 | C4H8O
solvent | CCl4 | 100 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 1-(tert-butyldiisopropylsilyl)-3-bromo-1H-pyrrole | 1.0 g | C(C)(C)(C)[Si](N1C=C(C=C1)Br)(C(C)C)C(C)C | C14H26BrNSi
